US04976887
According to a known method, optically active 2-octyl bromide and 2,7-dihydroxyfluorene were reacted in ethanol in the presence of potassium hydroxide. The resultant reaction mixture was purified by a column chromatography and recrystallization to obtain optically active 2-hydroxy-7-(2-octyloxy)-fluorene.

reactant | 2-octyl bromide | CC(CCCCCC)Br | C8H17Br
reactant | 2,7-dihydroxyfluorene | OC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C13H10O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-hydroxy-7-(2-octyloxy)-fluorene | OC1=CC=2CC3=CC(=CC=C3C2C=C1)OC(C)CCCCCC | C21H26O2
